Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Corgard / Vasotec
 
Attending: ___.
 
Chief Complaint:
Dyspnea on Exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 =======================================================  
 ___ FAILURE ADMISSION NOTE  
 =======================================================  
OUTPATIENT CARDIOLOGIST:  ___., MD ___
cardiology), ___  ___., MD(CHF)
PCP: ___., MD 

CHIEF COMPLAINT:  Dyspnea on Exertion
HISTORY OF PRESENTING ILLNESS:  
Mr. ___ is a ___ gentleman with a past medical
history pertinent for HFrEF (35% ___ CAD s/p CABG and
subsequent PCI, moderate tricuspid regurgitation, right
ventricular dysfunction, moderate pulmonary hypertension, and
paroxysmal atrial fibrillation on apixaban, stage III chronic
kidney disease (Baseline Cr 2.0-2.1), cerebrovascular disease,
and metastatic melanoma of unknown primary on checkpoint
inhibitor pembrolizumab who was found volume overloaded with
increased DOE, admitted to ___ for IV diuresis. 

Per most recent outpatient CHF notes:

He was seen by his primary car primary Cardiologist, Dr. ___ increased fatigue and exertional dyspnea. Dr. ___ 
a
___ and felt his LVEF was ~30% and reduced from prior. He was
started on low-dose Entresto, but couldn't tolerate it from a BP
prospective. He was previously on losartan which was stopped
due to this lightheadedness, dizziness and worsening renal
function. Dr. ___ concern about the possibility of
myocarditis secondary to the checkpoint inhibitor. When he
followed up with the Oncology team on ___, his symptoms were
somewhat improved. Cardiac biomarkers were notable for a rising
NTproBNP to >10K but normal CK-MB and minimally elevated 
troponin
T of 0.03, which is not unexpected in the setting
of decompensated ___ failure and chronic kidney disease. He 
was
planned to receive immunotherapy on ___, but treatment was
held due to elevated Cr. Recheck showed improvement. The patient
restarted pembrolizumab on ___. Pembrolizumab was again 
held
in ___ for diarrhea and elevated LFTs 

In addition, he also received intravenous hydration.
Subsequently, he was noted to be more volume overloaded, at 
which
time Torsemide from 20 mg daily to 30 mg daily then 40 mg daily.
Troponin testing showed Trop-T of 0.04, attributed to renal
insufficiency. The patient was also noted to have mild
hyperkalemia (K 5.7) for which potassium supplementation was
stopped and torsemide dose increased. He was also seen in the
Emergency room in the ___ ___ due to a
fall with resultant scalp laceration. CT head and neck was
unremarkable. 

He presented this morning ___ for his scheduled visit at
___ clinic where he noted that his weight had been 126 lbs most
recently on his home scale. He also reported decreased appetite
that he attributes to eating a different diet. He currently has 
a
___ care taker that makes ___ food for him, adhering
to a low sodium diet, that he does not like as much as his
regular diet. He drinks ___ glasses of water or juice daily. He
was taking torsemide 40 mg daily, that he decreased to 30 mg
daily several days ago as he felt he was urinating too
frequently. He also ran out of tamsulosin several days ago so
stopped taking this around the same time. He noted becoming 
short
of breath after taking 20 steps or less. Due to his volume
overloaded noted on exam he was recommended for admission to ___
for IV diuresis

On the floor, he endorses the above history. He noted that his
SOB has progressive gotten worse. Mostly occurs with activity.
None at rest. He noted that his weight has been slowly 
decreasing
due lack of appetite and him being to lazy. He has a home health
aid everyday from 11am-7pm, who helps him with ADL.  He endorses
abdominal bloading. 

Cardiac review of systems is notable for absence of chest pain,
paroxysmal nocturnal dyspnea, orthopnea, palpitations, syncope,
or presyncope.

ROS otherwise negative, unless otherwise noted above 

 
Past Medical History:
Past Medical History:
BILATERAL MODERATE CAROTID DISEASE 
CONGESTIVE ___ FAILURE 
CORONARY ARTERY DISEASE 
GASTROESOPHAGEAL REFLUX 
HYPERTENSION 
SEVERE EMPHYSEMA 
PULMONARY HYPERTENSION 
RIGHT BUNDLE BRANCH BLOCK 
BENIGN PROSTATIC HYPERTROPHY 
HYPERLIPIDEMIA 
PAROXYSMAL ATRIAL FIBRILLATION 
H/O HISTIOPLASMOSIS 

Past Surgical History:
CARDIOVERSION ___ 
RIGHT LOWER LOBE LOBECTOMY ___ 
CORONARY BYPASS SURGERY ___ 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
===============================
24 HR Data (last updated ___ @ 1335)
    Temp: 97.4 (Tm 97.4), BP: 115/66, HR: 61, RR: 18, O2 sat:
99%, O2 delivery: ra, Wt: 130.73 lb/59.3 kg  

GENERAL: Well developed, well nourished male in NAD. Oriented 
x3.
Mood, affect appropriate.  
HEENT: Scalp laceration noted. Sclera slightly icteric. PERRL.
EOMI. Conjunctiva were pink. No pallor or cyanosis of the oral
mucosa. No xanthelasma.  
NECK: Supple. JVP ~ 20 cm with positive hepatojugular reflex. 
CARDIAC: Regular rate and rhythm. Normal S1, S2. ___ 
holosystolic
murmur at the LLSB and the apex, no rubs, or gallops. No thrills
or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. Bibasilar crackles 
ABDOMEN: mildly distended; normoactive bowel sounds; soft and
non-tender to palpation; there is no appreciable organomegaly or
mass
EXTREMITIES: Cool, 1+ pitting edema to knee caps. bilateral
status dermatitis. 
SKIN: Eccymosis noted on left hand, Multiple open biopsy 
excision
sites on left shin and right calf
PULSES: Distal pulses palpable and symmetric. 

Discharge Physical exam
=======================
24 HR Data (last updated ___ @ 751)
    Temp: 98.2 (Tm 98.6), BP: 110/61 (100-121/54-63), HR: 72
(60-99), RR: 16 (___), O2 sat: 91% (91-95), O2 delivery: Ra  

General: elderly gentleman in NAD
HEENT: dressing in place on scalp from recent fall/scalp
laceration/c/d/i. Sclera mildly icteric, pupils equally round,
MMM 
NECK: JVP~10cm, with positive hepatojugular reflex
CV:  irregularly irregular ; the precordium is quiet without RV
heave; normal S1 with fixed split S2; there is a soft ___
holosystolic
murmur at the LLSB and the apex;
LUNGS: Normal effort. Fine Bibasilar crackles
Abd: soft, mildy distended, no guarding / rebound. 
EXT:  1+ pitting edema to the mid-calf L leg > R leg
SKIN:  Multiple excision biopsy wounds on legs, covered with
dressing c/d/i
NEURO:  Speech fluent, strength grossly intact 

 
Pertinent Results:
___ 01:00PM   ___ PTT-34.4 ___
___ 01:00PM   PLT COUNT-169
___ 01:00PM   NEUTS-81.6* LYMPHS-6.6* MONOS-10.4 EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-6.00 AbsLymp-0.49* AbsMono-0.77 
AbsEos-0.01* AbsBaso-0.01
___ 01:00PM   WBC-7.4 RBC-3.02* HGB-9.1* HCT-30.2* MCV-100* 
MCH-30.1 MCHC-30.1* RDW-16.4* RDWSD-59.2*
___ 01:00PM   calTIBC-352 FERRITIN-111 TRF-271
___ 01:00PM   CALCIUM-9.2 PHOSPHATE-3.7 MAGNESIUM-2.8* 
IRON-88
___ 01:00PM   CK-MB-4 cTropnT-0.01 ___
___ 01:00PM   ALT(SGPT)-56* AST(SGOT)-52* LD(LDH)-277* ALK 
PHOS-135* TOT BILI-0.7
___ 01:00PM   estGFR-Using this
___ 01:00PM   GLUCOSE-100 UREA N-52* CREAT-2.1* SODIUM-135 
POTASSIUM-5.4 CHLORIDE-100 TOTAL CO2-24 ANION GAP-11
___ 04:54PM URINE  HYALINE-1*
___ 04:54PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 04:54PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:54PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:53AM BLOOD WBC-6.5 RBC-2.70* Hgb-8.2* Hct-26.5* 
MCV-98 MCH-30.4 MCHC-30.9* RDW-16.0* RDWSD-56.3* Plt ___
___ 07:53AM BLOOD Plt ___
___ 07:53AM BLOOD Glucose-105* UreaN-43* Creat-2.2* Na-140 
K-4.2 Cl-102 HCO3-27 AnGap-11
___:04AM BLOOD ALT-45* AST-42* AlkPhos-113 TotBili-0.6
___ 07:53AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.4
___ 01:00PM BLOOD calTIBC-352 Ferritn-111 TRF-271
 
Brief Hospital Course:
TRANSITIONAL ISSUES 
==================== 
DISCHARGE WEIGHT: 55.6 kg (122.57 lb) 
DISCHARGE Cr/BUN: Cr 2.2, BUN 43
DISCHARGE DIURETIC: 40 Torsemide daily
MEDICATION CHANGES: Decreased daily potassium to 40 mEq daily 
(from 30 mEq twice dailye)

[] Please obtain repeat Chem10 within 2 weeks and after 4 weeks. 
Adjust electrolyte repletion accordingly.
[] Please follow up weight and volume status and adjust 
torsemide accordingly. 

#CODE STATUS: Presumed full
Health care proxy chosen: Yes 
Name of health care proxy: ___ 
___: son 
Phone number: ___ 

==================== 
PATIENT SUMMARY: 
==================== 
Mr. ___ is a ___ gentleman with PMHx of CAD s/p 
CABG
and subsequent PCI, HFrEF (35% ___, moderate tricuspid
regurgitation, right ventricular dysfunction, moderate pulmonary
hypertension, and paroxysmal atrial fibrillation on apixaban,
stage III chronic kidney disease (Baseline Cr 2.0-2.1),
cerebrovascular disease, and metastatic melanoma of unknown
primary on checkpoint inhibitor pembrolizumab who was found
volume overloaded with increased DOE, admitted to acute ___ 
failure for IV diuresis, now transitioned to oral duiretics. 

# CORONARIES: Left Main and two vessel coronary disease (___).
# PUMP: 35% ___ 
# RHYTHM: Ectopic rhythm, PR prolongation, left axis deviation, 
RBBB

ACTIVE ISSUES: 
============== 
# ___ Failure with reduced ejection fraction
# Right ventricular dysfunction, TR, pulm HTN
# Volume overload
His ___ failure exacerbation is likely secondary to his recent
administration of IV fluids in addition to his self down
titration of his torsemide over the last week. In addition, he
does not follow a restricted fluid intake and drinks ___ glasses
of water or juice daily. Furthermore, he has not tolerated
guideline directed medical therapy due to recurrent issues with
acute kidney injury and elevated transaminitis while on
pembrolizumab therapy. He was clinically volume overloaded with
elevated BNP 16020. We initiated IV lasix 160 bolus and put him 
on a lasix gtt with good response, however he his Cr increased 
from 2.1-->2.7. His Cr. improved with transition to PO Torsemide 
40 mg daily. We monitored and aggressively repleted his 
potassium. No afterload reduction or neural hormonal blockade 
was added.

# Chronic Kidney Disease: Baseline 2.1-2.3 . 
Cr 2.1 on admission(Stable )- Cr on discharge:2.2
Cr initially uptrended above baseline from 2.1---> 2.7. Felt 
likely due to increased diuretic usage as it improved with 
stopping diuretics. Less likely cardiorenal syndrome. In 
addition,patient was recently seen in follow-up by nephrology. 
They felt his CKD was less likely to be related to pembrolizumab 
and more likely related to age-related decline in renal 
function. Creatinine 2.2 on discharge (stable).

# Metastatic Melanoma 
He is followed by Dr. ___. He was previously on
Pembrolizumab which was held due diarrhea, elevated LFTs and
worsening kidney function. Negative troponin and CK MB, no 
concern
for drug-induced myocarditis at this point. Followup in 
___ clinic in 2weeks after discharge

# Elevated transaminiatis
Stable. Statin and ___ had previously been held. No changes made 
during admission. 

# Urinary frequency
Likely due to diuretic use. Afebrile and asx otherwise
-Continued home tamsulosin

# Coronary artery disease, s/p CABG and LAD PCI.
-Continued aspirin 81 mg daily
-Statin stopped prior to admission due to elevated LFTs. 
Continued holding. 

CHRONIC ISSUES: 
============== 

# Paroxysmal Atrial fibrillation
Rythym: Continue amiodarone 200mg for rhythm control strategy
(monitoring safety labs)
-Continued anticoagulation with apixaban 2.5mg twice daily

# Hypertension: Stable. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Amiodarone 200 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Senna 17.2 mg PO HS 
5. Vitamin D 1000 UNIT PO DAILY 
6. Align (bifidobacterium infantis) 4 mg oral DAILY 
7. coenzyme Q10 100 mg oral DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. Torsemide 40 mg PO DAILY 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Sertraline 50 mg PO DAILY 
12. Potassium Chloride 30 mEq PO BID 
13. Apixaban 2.5 mg PO BID 
14. Cephalexin 500 mg PO Q6H 

 
Discharge Medications:
1.  Potassium Chloride 40 mEq PO DAILY 
RX *potassium chloride 20 mEq 2 packet(s) by mouth once a day 
Disp #*60 Tablet Refills:*0 
2.  Align (bifidobacterium infantis) 4 mg oral DAILY  
3.  Amiodarone 200 mg PO DAILY  
4.  Apixaban 2.5 mg PO BID  
5.  Aspirin 81 mg PO DAILY  
6.  coenzyme Q10 100 mg oral DAILY  
7.  Docusate Sodium 100 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Senna 17.2 mg PO HS  
10.  Sertraline 50 mg PO DAILY  
11.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth nightly Disp #*30 
Capsule Refills:*0 
12.  Torsemide 40 mg PO DAILY  
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
=================
HFrEF excerterbation

Secondary diagnosis
===================
Transaminitis
Metastatic melanoma
CKD
Coronary artery disease, s/p CABG and LAD PCI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
=========================  
DISCHARGE INSTRUCTIONS  
==========================  

Dear Mr. ___ ,  

It was a pleasure taking care of you at ___ 
___. 
 
WHY WAS I ADMITTED TO THE HOSPITAL?  
You were feeling short of breath because you had fluid in your 
lungs. This was caused by a condition called ___ failure, 
where your ___ does not pump hard enough and fluid backs up 
into your lungs.  

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
You were given medications to help get the fluid out. Your 
breathing got better and were ready to leave the hospital.  

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  
- Weigh yourself every morning. Your weight on discharge is 
122.57 lbs. Call your doctor if your weight goes up more than 3 
pounds.
- Call you doctor if you notice any of the "danger signs" below. 
 
 
We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___